data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1919,2127,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[C:21]([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21]2([C:22](=[O:23])[O:24][CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,21.56940378234981,-49.0982375300619
702,763,[CH3:14][NH:15][C:16](=[O:17])[C:18]([CH3:19])=[NH+:20][CH-:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:18]([C:16]([NH:15][CH3:14])=[O:17])([CH3:19])[NH:20][CH:21]2[C:22]#[N:23],water,298.15,5.072942059821091,-29.00015866201652
5226,5929,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[N:15]#[C:16][C:17]([C:18]#[N:19])=[NH+:20][C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[NH:20][C:17]2([C:16]#[N:15])[C:18]#[N:19],water,298.15,34.28774370037055,13.708285832572914
2683,2981,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([N+:25]#[C:26][C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])=[N:25][C:24]2([C:22]([O:21][CH3:20])=[O:23])[C:30](=[O:31])[O:32][CH3:33],water,298.15,23.44899829856789,-38.79689493950375
541,591,[CH3:13][C:14](=[NH+:15][O-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[O:16][NH:15][C:14]3([CH3:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,24.98441459721123,-15.000571509541508
4989,5677,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,35.187379385661146,5.93895173156087
1438,1580,[CH3:18][O:19][C:20](=[O:21])[N-:22][N+:23]#[C:24][C:25]#[N:26].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([F:6])([F:7])[F:8])[c:9]2[c:10]([c:24]([C:25]#[N:26])[n:23][n:22]2[C:20]([O:19][CH3:18])=[O:21])[C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1,water,298.15,16.24413553365711,-71.97268920523301
2498,2775,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]#[C:13][C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C-:25]([CH3:26])[N+:27]([CH3:28])=[CH:29][C:30]([CH3:31])=[O:32]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:12]2=[C:13]([C:14]([Cl:15])([Cl:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([O:22][CH3:21])=[O:24])([CH3:26])[N:27]([CH3:28])[CH:29]2[C:30]([CH3:31])=[O:32],water,298.15,24.802267342956355,-37.090237597664064
5017,5705,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,35.24234039111672,1.7026849051617463
4937,5623,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][NH+:17]=[C:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:16]([CH3:15])[NH:17][C:18]2([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,18.01410465932723,-4.248631727016183
